US03959322
Condense n-butylcyclopentane-1,3-dione (2.8 g) in 0.12% methanolic potassium hydroxide solution (8 cc) with 6-m-methoxyphenylhex-1-en-3-one (5 g) by heating the mixture at 80° for 10 hours. Evaporate the solvent under reduced pressure and heat the residue with toluene-p-sulfonic acid (2 g) in benzene (50 cc) for 45 minutes using a Dean-Stark trap to effect double cyclodehydration. Add ether to the cooled reaction mixture, and evaporate the washed and solution; recrystallize ether solution;recrystallize the residue from ethanol to obtain 13β-butyl-3-methoxygona-1,3,5(10),8,14-pentaen-17-one (1.9 g), m.p. 53°-55°; ultraviolet absorption peak at 312 mμ (ε29,200).

reactant | n-butylcyclopentane-1,3-dione | 2.8 g | C(CCC)C1C(CCC1=O)=O | C9H14O2
reactant | 6-m-methoxyphenylhex-1-en-3-one | 5 g | COC=1C=C(C=CC1)CCCC(C=C)=O | C13H16O2
solvent | potassium hydroxide | 8 cc | [OH-].[K+]
product | 13β-butyl-3-methoxygona-1,3,5(10),8,14-pentaen-17-one | 1.9 g | C(CCC)[C@]12C(CC=C2C2=C(CC1)C=1C=CC(=CC1CC2)OC)=O | C22H26O2
